US06066657
2-Cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic Acid (3-methylpyridin-4-yl)amide
To a stirred solution of 4-amino-3-methylpyridine (160 mg) in dimethylformamide (10 ml) under an atmosphere of nitrogen was added sodium hexamethyldisilazide (1.0M solution in tetrahydrofuran, 1.5 ml). The reaction mixture was stirred at room temperature for 10 minutes. 2-Cyclopropanecarbonyl-7-methoxy-benzofuran-4-carboxylic acid 4-nitrophenyl ester (280 mg) was then added and stirring continued for 18 h. Water (10 ml) was added and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (150 ml), washed with water (3×50 ml) and washed with brine (50 ml). The combined aqueous layers were extracted with dichloromethane (2×50 ml), the organic layers were combined, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica eluting with 5% methanol in dichloromethane followed by trituration with diethyl ether afforded the title compound as an off-white solid (130 mg).

reactant | 4-amino-3-methylpyridine | 160 mg | NC1=C(C=NC=C1)C | C6H8N2
reactant | sodium hexamethyldisilazide | 1.0M, 1.5 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 2-Cyclopropanecarbonyl-7-methoxy-benzofuran-4-carboxylic acid 4-nitrophenyl ester | 280 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)C(=O)C2CC2)OC | C20H15NO7
reactant | Water | 10 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Cyclopropanecarbonyl-7-methoxybenzofuran-4-carboxylic Acid (3-methylpyridin-4-yl)amide | 130 mg | CC=1C=NC=CC1NC(=O)C=1C=CC(=C2C1C=C(O2)C(=O)C2CC2)OC | C20H18N2O4
